US06297259B1
N-Methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)-2-methoxy-5-trifluoromethoxybenzamide
Prepare by the method of Example 1.7 using N-methyl-N-(2-(3,4-dichlorophenyl)-4-methanesulfonylbutyl)-2-methoxy-5-trifluoromethoxybenzamide and 4-(1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt to give the title compound.

reactant | N-methyl-N-(2-(3,4-dichlorophenyl)-4-methanesulfonylbutyl)-2-methoxy-5-trifluoromethoxybenzamide | CN(C(C1=C(C=CC(=C1)OC(F)(F)F)OC)=O)CC(CCS(=O)(=O)C)C1=CC(=C(C=C1)Cl)Cl | C21H22Cl2F3NO5S
reactant | 4-(1H-benzimidazole-2-carbonyl)piperidine hydriodic acid salt | I.N1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2
product | N-Methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)-2-methoxy-5-trifluoromethoxybenzamide | CN(C(C1=C(C=CC(=C1)OC(F)(F)F)OC)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2)C2=CC(=C(C=C2)Cl)Cl | C33H33Cl2F3N4O4
